US04549900
26.5 g (0.1 mol) of 1-bromo-3-methyl-3-trifluoromethylthio-butan-2-one were added dropwise to a mixture of 8.3 g (0.12 mol) of 1,2,4-triazole and 28 g (0.2 mol) of potassium carbonate in 150 ml of acetone at room temperature. The mixture was subsequently stirred under reflux for 1 hour, the inorganic salts were filtered off and the filtrate was concentrated. The residue was taken up in methylene chloride, washed with water, dried over sodium sulphate and distilled. 15.5 g (62% of theory) of 3-methyl-1-(1,2,4-triazol-1-yl)-3-trifluoromethylmercapto-butan-2-one of boiling point 91° C./0.5 mm Hg and of melting point ~45° C. were obtained.

reactant | 1-bromo-3-methyl-3-trifluoromethylthio-butan-2-one | 0.1 mol, 26.5 g | BrCC(C(C)(SC(F)(F)F)C)=O | C6H8BrF3OS
reactant | 1,2,4-triazole | 0.12 mol, 8.3 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.2 mol, 28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-methyl-1-(1,2,4-triazol-1-yl)-3-trifluoromethylmercapto-butan-2-one | 15.5 g, 62% | CC(C(CN1N=CN=C1)=O)(C)SC(F)(F)F | C8H10F3N3OS
